US03950427
(E)-4-(4-Biphenylyl)-3-butene- 2-ol by method C
22.2 Gm (0.1 mol) of (E)-4-(4-biphenylyl)-3-butene-2-one, dissolved in 1 liter of 95% ethanol, were added in small amounts within 10 minutes to a solution of 1.9 gm (0.05 mol) of sodium borohydride in 300 ml of 95% ethanol. Subsequently, the mixture was stirred for 1 hour at room temperature. The excess reducing agent was removed by careful addition of 3 gm of glacial acetic acid. The solvent was subsequently distilled off in water aspirator vacuum. 500 Ml of water were added to the residue, and the reaction mixture was exhaustively extracted with ether. The combined ether extracts were washed with water, dried over sodium sulfate and evaporated. The residue was recrystallized from ethyl acetate/petroleum ether (ratio of volume: 1:9) in the presence of charcoal. 16.1 Gm (72% of theory) of colorless crystals, m. p. 138°-139°C, were obtained; the compounds was completely identical with that prepared in Example 25 according to thin-layer chromatogram, melting point, mixed melting point and spectra.

reactant | (E)-4-(4-biphenylyl)-3-butene-2-one | 0.1 mol | C1(=CC=C(C=C1)/C=C/C(C)=O)C1=CC=CC=C1 | C16H14O
reactant | sodium borohydride | 0.05 mol, 1.9 gm | [BH4-].[Na+]
solvent | ethanol | 1 liter | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | (E)-4-(4-Biphenylyl)-3-butene- 2-ol | C1(=CC=C(C=C1)/C=C/C(C)O)C1=CC=CC=C1 | C16H16O
